US04897355
Maleimide-PE (chemical name: dioleoylphosphatidylethanolamine 4-(N-maleimidomethyl)-cyclohexane-1-carboxylate) was prepared by mixing 17 mg succinimidyl 4-(N-maleimidomethyl) clyclohexane-1-carboxylate (SMCC), with 7 μl triethylamine and 25 mg dioleoyl-phosphatidylethanolamine (DOPE) in 2.5 ml of chloroform. The mixture was sealed tightly to prevent evaporation and stirred at room temperature overnight. The reaction mixture was washed, 3×2 ml, with 5% methanol in water. The chloroform was then dried over anhydrous sodium sulfate and the sample was applied to the top of a silica gel column (1×5 cm). The column was eluted with chloroform (5 ml), 5% methanol in chloroform (5 ml), 10% methanol in chloroform (5 ml), and finally 20% methanol in chloroform until all of the product was eluted. The fractions containing product were pooled and solvent removed on a rotary evaporator to give the 28 mg of maleimide-PE as white, oily residue. The material was estimated to be greater then 95% pure by thin layer chromatography on silica gel chloroform-methanol-acetic acid (60:20:3) and was used without further purification. DOPG/DOPC sonicated vesicles containing maleimide-PE were prepared by dissolving 16 mg DOPG, 24 mg DOPC and 0.4 mg maleimide-PE in chloroform and removing the solvent by drying under a stream of nitrogen gas. This dried film was placed under vacuum overnight to remove traces of solvent. The film was then suspended in 0.8 ml water with vigorous shaking and sonicated in a bath type sonicator for 30 minutes until clear producing DOTMA/DOPC SUV's at a concentration of 50 mg/ml.

reactant | DOPG | 16 mg | CCCCCCCCC=CCCCCCCCC(=O)OCC(COP(=O)(O)OCC(CO)O)OC(=O)CCCCCCCC=CCCCCCCCC | C42H79O10P
reactant | DOPC | 24 mg | CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | C44H84NO8P
reactant | maleimide | 0.4 mg | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | DOTMA DOPC | CCCCCCCC/C=C\CCCCCCCCOCC(C[N+](C)(C)C)OCCCCCCCC/C=C\CCCCCCCC.[Cl-].CCCCCCCC/C=C\CCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCC/C=C\CCCCCCCC | InChI=1S/C44H84NO8P.C42H84NO2.ClH/c1-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-43(46)50-40-42(41-52-54(48,49)51-39-38-45(3,4)5)53-44(47)37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-2;1-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-38-44-41-42(40-43(3,4)5)45-39-37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-2;/h20-23,42H,6-19,24-41H2,1-5H3;20-23,42H,6-19,24-41H2,1-5H3;1H/q;+1;/p-1/b2*22-20-,23-21-;/t42-;;/m1../s1
